US04029816
A mixture of 4-(1,1-dimethylethyl)phenol (75 g., 0.50 mole), 2-chloro-N-(hydroxymethyl)acetamide (61 g., 0.50 mole) and 96% sulfuric acid (50 ml.) in acetic acid (500 ml.) is stirred at 20° C. for 4 hours and then poured into ice water (2 l.) providing a heterogenous mixture. After decanting the aqueous solution, the insoluble white gum is extracted with ether. The organic extract is washed with water and saturated brine and evaporated in vacuo leaving a residual oil. A solution of the latter in 12N hydrochloric acid-ethanol (1:1; 400 ml.) is heated at reflux for 4 hours, diluted with 12N hydrochloric acid (200 ml.) and slowly cooled to -20° C. The deposited white crystalline solid is collected to provide pure 2-aminomethyl-4-(1,1-dimethylethyl)phenol hydrochloride (55 g.), m.p. 227°-229° C. (dec.).

reactant | 4-(1,1-dimethylethyl)phenol | 0.50 mole, 75 g | CC(C)(C)C1=CC=C(C=C1)O | C10H14O
reactant | 2-chloro-N-(hydroxymethyl)acetamide | 0.50 mole, 61 g | ClCC(=O)NCO | C3H6ClNO2
reactant | sulfuric acid | 50 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
solvent | hydrochloric acid ethanol | 12N, 400 ml | Cl.C(C)O
solvent | hydrochloric acid | 12N, 200 ml | Cl | ClH
product | 2-aminomethyl-4-(1,1-dimethylethyl)phenol hydrochloride | 55 g | Cl.NCC1=C(C=CC(=C1)C(C)(C)C)O | InChI=1S/C11H17NO.ClH/c1-11(2,3)9-4-5-10(13)8(6-9)7-12;/h4-6,13H,7,12H2,1-3H3;1H
